datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.[H:10][CH:11]1[C:12]2=[C:13]([O:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.[CH:11]1=[C:12]2[C:13](=[O+:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
CC(C)[OH:10].[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC(C)[OH+:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10=20
"CC1=CC=[C:10]([B-:11]2(C3=CC=CC=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCC([P:10](C2CCCCC2)C2CCCCC2)CC1.FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].FC(F)[S:20][P+:10](C1CCCCC1)(C1CCCCC1)C1CCCCC1 10=20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC[O:62]2)S1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC1=CC=[C:10]([CH:20]([CH:21]=[CH:22][N:23]2CCCC2C(O[Si](C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)S1.FC(F)(F)C1=CC(C(F)(F)F)=CC([B-:11]2=[O+:12]CC[O:62]2)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+].[H:10][CH:11]([CH:62]=[CH2:63])[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1>>COC12C3C[CH:20]([H:10])C4C1[Fe-3:21]342(C#[O+])(C#[O+])C#[O+].[CH+:11]([CH:62]=[CH2:63])[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1 10,11=10,20;20,21=21"
"C[C:11]1=[N:10][CH:61]=[C:62](C)[N-:12]1.F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[C:11]1=[N:12][C:62](C)=[CH:61][N:10]1[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"CC[O:72][C:11](=[CH:10][P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CC[O:72][C:11]([CH:10]([CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.[O+]#C[Mo-3:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)([H:10])C5C1C2C3C54>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.[O+]#C[Mo-2:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)C5C1C2C3C54 10,11=10,20"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH-:10][C:61]#[N:62])[CH:84]=[CH:85]1>>CC1=CC=C([S:32]([N-:21][CH:20]([CH:10]([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74](C(F)(F)F)[CH:85]=[CH:84]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[O-:10][C:61]#[N:62]>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([O:10][C:61]#[N:62])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10=20
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12]/[CH:11]=[CH:10]/C.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[CH:11][CH:10](C)[CH:20]1CC[C:22]([O-:23])=[C:21]1C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC(C)(C)C[O:62]2)S1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>CC1(C)C[O+:12]=[B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)[O:62]C1.CC1=CC=[C:10]([CH:20]([O:21]C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)S1 10,11=10,20;12=11,12;20,21=21"
"C[N:12]1CC[N:62](C)[C:11]1=[NH:10].Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>C[N+:12]1=[C:11]([NH:10][C:20]2([C:41]3=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]3)CC[CH:32]=[CH:31]2)[N:62](C)CC1 10,11=10,20;12=11,12"
